US08278442B2
Preparation 84: 3-Fluoro-4(4-formylnaphthalen-1-yloxy)benzonitrile
Using the procedure outlined in Preparation 82, 4-hydroxynaphthaldehyde and 3,4-difluorobenzonitrile were converted to the title compound: RT=3.90 min; m/z (ES+)=292.1 [M+H]+.

reactant | 4-hydroxynaphthaldehyde | OC1=CC=C(C2=CC=CC=C12)C=O | C11H8O2
reactant | 3,4-difluorobenzonitrile | FC=1C=C(C#N)C=CC1F | C7H3F2N
product | 3-Fluoro-4(4-formylnaphthalen-1-yloxy)benzonitrile | FC=1C=C(C#N)C=CC1OC1=CC=C(C2=CC=CC=C12)C=O | C18H10FNO2
